US04243666
Preparation of 4-Amino-2-(4 -carboxypiperidino)-6,7-dimethoxyquinazoline monohydrate
The above was prepared similarly to Example 1, starting from 4-amino-2-chloro-6,7-dimethoxyquinazoline and 4-carboxypiperidine and had an m.p. of 295°.

reactant | 4-amino-2-chloro-6,7-dimethoxyquinazoline | NC1=NC(=NC2=CC(=C(C=C12)OC)OC)Cl | C10H10ClN3O2
reactant | 4-carboxypiperidine | C(=O)(O)C1CCNCC1 | C6H11NO2
product | 4-Amino-2-(4 -carboxypiperidino)-6,7-dimethoxyquinazoline monohydrate | O.NC1=NC(=NC2=CC(=C(C=C12)OC)OC)N1CCC(CC1)C(=O)O | InChI=1S/C16H20N4O4.H2O/c1-23-12-7-10-11(8-13(12)24-2)18-16(19-14(10)17)20-5-3-9(4-6-20)15(21)22;/h7-9H,3-6H2,1-2H3,(H,21,22)(H2,17,18,19);1H2
